US06511974B1
2-Chloro-4-(2-methyl-1H-pyrazol-3-yl)-benzoic Acid
The tide compound was prepared in the same manner as described in Example 70, employing 2-chloro-4-(2-methyl-1H-pyrazol-3yl)-benzoic acid, methyl ester (0.464 g) and 2.5N sodium hydroxide (1.04 ml). 1H NMR (300 MHz), (DMSO-d6) δ: 3.89 (s, 3H), 6.56 (d, 1H), 7.49 (d, 1H), 7.59-7.90 (m, 3H).

reactant | 2-chloro-4-(2-methyl-1H-pyrazol-3yl)-benzoic acid, methyl ester | 0.464 g | ClC1=C(C(=O)OC)C=CC(=C1)C1N(NC=C1)C | C12H13ClN2O2
reactant | sodium hydroxide | 2.5N, 1.04 ml | [OH-].[Na+]
product | 2-Chloro-4-(2-methyl-1H-pyrazol-3-yl)-benzoic Acid | ClC1=C(C(=O)O)C=CC(=C1)C1N(NC=C1)C | C11H11ClN2O2
